US05677464
1-[(1R,2S)-2-(2,4-Difluorophenyl)-2-hydroxy-3-(isopropoxydimethylsilyl)-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (1.8 g) was dissolved in a mixture of methanol and tetrahydrofuran (1:1, 20 ml), to which 3.21 ml of 30% aqueous hydrogen peroxide and 0.262 g of sodium hydrogencarbonate were added. The mixture was heated at 70° to 80° C. for 90 minutes, cooled and extracted with 100 ml of ethyl acetate. The extract was washed with 50 ml of water, an aqueous solution of Na2S2O3 (50 ml×2) and 50 ml of an aqueous solution of sodium chloride successively, and dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (silica gel: 50 g, eluent; hexane:ethyl acetate=2:3) and recrystallized from diisopropyl ether to give 1.32 g of 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone (yield: 88%) as colorless prisms.

reactant | 1-[(1R,2S)-2-(2,4-Difluorophenyl)-2-hydroxy-3-(isopropoxydimethylsilyl)-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 1.8 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(C[Si](C)(C)OC(C)C)O | C27H32F6N2O4Si
reactant | sodium hydrogencarbonate | 0.262 g | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrogen peroxide | 3.21 ml | OO | H2O2
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-2(1H,3H)-imidazolone | 1.32 g, yield: 88% | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)(CO)O | C22H20F6N2O4
